US04663319
N-Phenyl-β-alanine ethyl ester (24,25 g) is dissolved in benzene (60 ml), and thereto is added dropwise diketene (12 ml) at 70° C. The mixture is refluxed overnight. The mixture is distilled to remove the solvent to give crude N-phenyl-N-methoxycarbonylmethylcarbonyl-β-alanine ethyl ester (37.23 g). Said crude compound is dissolved in methanol (70 ml), and the mixture is added dropwise to a solution of sodium methoxide (prepared from 3.90 g of sodium) in methanol (70 ml) at 50° C. The mixture is stirred at 50° C. for 2 hours, and distilled to remove the solvent. The residue is dissolved in water, and the aqueous solution is extracted with ethyl acetate. The aqueous layer is neutralized with 10% HCl, and extracted with ethyl acetate. The extract is washed with a saturated sodium chloride solution, dried and then distilled to remove the solvent. The residue is purified by silica gel column chromatography (solvent, ethyl acetate:n-hexane=1:2) to give 1-phenyl-3-acetyl-2,4-dioxopiperidine (23.87 g, 81.6%) as oil.

reactant | N-Phenyl-β-alanine ethyl ester | 24,25 g | C(C)OC(CCNC1=CC=CC=C1)=O | C11H15NO2
reactant | diketene | 12 ml | C=C1CC(=O)O1 | C4H4O2
reactant | sodium methoxide | 3.90 g | C[O-].[Na+]
solvent | benzene | 60 ml | C1=CC=CC=C1 | C6H6
solvent | methanol | 70 ml | CO | CH4O
solvent | methanol | 70 ml | CO | CH4O
product | 1-phenyl-3-acetyl-2,4-dioxopiperidine | 23.87 g, 81.6% | C1(=CC=CC=C1)N1C(C(C(CC1)=O)C(C)=O)=O | C13H13NO3
